US08314117B2
(5S,6S,9R)-5-azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate.
In a 100 mL round-bottom flask was dissolved (5S,6S,9R)-5-azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (0.490 g, 1.549 mmol) (azeotroped with dry benzene) and 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (0.713 g, 1.859 mmol) in dimethylformamide (8 mL) to give a light yellow suspension under nitrogen. After cooling to −15° C. (ice-methanol bath), NaHMDS (4.18 mL, 4.18 mmol) was added dropwise. The resulting tan solution was stirred under nitrogen at −10° C.˜0° C. for 2 h and at room temperature for 2 h. LCMS showed complete conversion. The reaction was quenched with sodium bicarbonate solution. The mixture was diluted with ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried with sodium sulfate, and concentrated to give a tan oil. Purification by FCC up to 8% methanol/methylene chloride afforded the desired product (major peak, 632 mg, 73% for 3 steps) as a light yellow foam.

reactant | (5S,6S,9R)-5-azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | 1.549 mmol, 0.490 g | N(=[N+]=[N-])[C@H]1[C@@H](CC[C@H](C2=NC=CC=C21)O)C2=C(C(=CC=C2)F)F | C16H14F2N4O
reactant | 4-nitrophenyl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 1.859 mmol, 0.713 g | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H17N5O5
reactant | NaHMDS | 4.18 mmol, 4.18 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (5S,6S,9R)-5-azido-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 632 mg, 73% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)N=[N+]=[N-])C2=C(C(=CC=C2)F)F | C28H26F2N8O3
